US04673746
2-chloro-2'-fluoro-4-methoxybenzophenone (15.5 g) is refluxed for three hours in 150 ml of pyridine containing 10.0 g of hydroxylamine hydrochloride. The pyridine is removed in vacuo and the residue is distributed between ether and 5% HCl. Drying and evaporation of the organic phase gives an isomeric mixture of oximes. The mixture is dissolved in 50 ml of DMF and is added to a suspension of 1.5 g NaH in 30 ml of DMF. After warming at 60° C. for 30 minutes the reaction mixture is poured into H2O and extracted with ether. Concentration under reduced pressure gives a solid. Recrystallization from ether gives 3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole, mp 101°-103° C.

reactant | 2-chloro-2'-fluoro-4-methoxybenzophenone | 15.5 g | ClC1=C(C(=O)C2=C(C=CC=C2)F)C=CC(=C1)OC | C14H10ClFO2
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | NaH | 1.5 g | [H-].[Na+]
reactant | H2O | O | H2O
solvent | pyridine | 150 ml, 10.0 g | N1=CC=CC=C1 | C5H5N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | FC1=C(C=CC=C1)C1=NOC2=C1C=CC(=C2)OC | C14H10FNO2
